US05710162
Synthesis of 3-methyl-5H-indeno[2,1-c]quinoline-6,7-dion
A mixture of 1,2-dihydro-4-phenyl-7-methyl--2-oxo-3-quinoline carboxylic acid ethyl ester (2.5 g, 8.1 mmol) and conc. sulfuric acid (20 ml) was stirred with heat at 95° C. for 10 hours. The reaction mixture was poured into ice water to obtain a crystal precipitated by filtration. The crystal obtained was washed with water and methanol in this sequence to give 1.5 g (yield 70.6%) of the title compound.

reactant | 1,2-dihydro-4-phenyl-7-methyl--2-oxo-3-quinoline carboxylic acid ethyl ester | 8.1 mmol, 2.5 g | C(C)OC(=O)C=1C(NC2=CC(=CC=C2C1C1=CC=CC=C1)C)=O | C19H17NO3
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 3-methyl-5H-indeno[2,1-c]quinoline-6,7-dion | 1.5 g, yield 70.6% | CC1=CC=C2C3=C(C(NC2=C1)=O)C(C1=CC=CC=C13)=O | C17H11NO2
